US04054663
N,N-Diethyl 6-methyl-2-nitroisonicotinamide (Compound No. 97)
To a mixture of 1.0 g. of 6-methyl-2-nitroisonicotinic acid, 20 ml. of chloroform and 3 ml. of diethylamine was added 7.0 g. of phosphorus pentoxide with stirring. The resulting mixture was refluxed for 1 hour. After cooling, the chloroform layer was separated and poured into 20 ml. of water. The resulting mixture was neutralized with sodium hydrogencarbonate and the chloroform layer was separated, dried ever anhydrous sodium sulfate and the chloroform was distilled off in vacuo. The residual oil was gradually crystallized and then recrystallized from ethyl acetate - n-hexane to give 0.6 g. of the desired product.

reactant | 6-methyl-2-nitroisonicotinic acid | CC=1N=C(C=C(C(=O)O)C1)[N+](=O)[O-] | C7H6N2O4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-Diethyl 6-methyl-2-nitroisonicotinamide | C(C)N(C(C1=CC(=NC(=C1)C)[N+](=O)[O-])=O)CC | C11H15N3O3
